US07482343B2
a) {1-[{1-[5-(Acetylamino-methyl)-3-benzyl-6-methyl-4-oxo-3,4-dihydro-pyrimidin-2-yl]-2-methyl-propyl}-(1-p-tolyl-methanoyl)-amino]-propyl}-carbamic acid tert-butyl ester
To a stirred solution of {1-[{1-[5-Cyano-3-benzyl-6-methyl-4-oxo-3,4-dihydro-pyrimidin-2-yl]-2-methyl-propyl}-(1-p-tolyl-methanoyl)-amino]-propyl}-carbamic acid tert-butyl ester (350 mg, 0.6 mMol) in HOAc (10 mL) was carefully added 10% Pd/C (150 mg). The reaction was hydrogenated under a balloon of H2 for 18 h at RT, filtered through a pad of Celite®, rinsed with HOAc and evaporated under vacuum. To the crude amine (˜34% pure by LCMS, MS (ES) m/e 576.4 (M+H)+) in CH2Cl2 (10 mL) was added with stirring Et3N (280 uL, 2 mMol) and Ac2O (114 uL, 1.2 mMol). After stirring at RT for 2 h the reaction was concentrated under vacuum, taken up in EtOAc, washed with 1 N Na2CO3, 1 N HCl, brine, dried (MgSO4), filtered and evaporated under vacuum. Purification by flash chromatography (80% EtOAc/hexane) gave the title compound (0.10 g, 27%) as an off-white solid: MS (ES) m/e 618.4 (M+H)+.

reactant | {1-[{1-[5-Cyano-3-benzyl-6-methyl-4-oxo-3,4-dihydro-pyrimidin-2-yl]-2-methyl-propyl}-(1-p-tolyl-methanoyl)-amino]-propyl}-carbamic acid tert-butyl ester | 0.6 mMol, 350 mg | C(C)(C)(C)OC(NC(CC)N(C(=O)C1=CC=C(C=C1)C)C(C(C)C)C1=NC(=C(C(N1CC1=CC=CC=C1)=O)C#N)C)=O | C33H41N5O4
reactant | Et3N | 2 mMol, 280 uL | CCN(CC)CC | C6H15N
reactant | Ac2O | 1.2 mMol, 114 uL | CC(=O)OC(=O)C | C4H6O3
solvent | HOAc | 10 mL | CC(=O)O | C2H4O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 150 mg | [Pd] | Pd
product | {1-[{1-[5-(Acetylamino-methyl)-3-benzyl-6-methyl-4-oxo-3,4-dihydro-pyrimidin-2-yl]-2-methyl-propyl}-(1-p-tolyl-methanoyl)-amino]-propyl}-carbamic acid tert-butyl ester | 0.10 g, 27% | C(C)(C)(C)OC(NC(CC)N(C(=O)C1=CC=C(C=C1)C)C(C(C)C)C1=NC(=C(C(N1CC1=CC=CC=C1)=O)CNC(C)=O)C)=O | C35H47N5O5
